US07511050B2
3-methyl-9-pentyl-7-phenyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
To a mixture of 7-bromo-3-methyl-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one (100 mg, 0.30 mmol), phenylboronic acid (39.5 mg, 0.32 mmol), sodium carbonate (100 mg, 0.94 mmol) in water (2 ml) and 1,2-dimethoxyethane (20 ml) was added tetrakis(triphenylphosphine)-palladium(0) (200 mg, 0.10 mmol). The mixture was heated to reflux overnight. The reaction mixture was diluted with water and extracted with ethyl acetate three times. The combined organic layers were dried with sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by preparative LCMS to yield the desired product (16 mg, 16%). 1HNMR (400 MHz, CD3OD): δ 8.06 (m, 2H), 7.49 (m, 3H), 4.38 (t, J=8.0 Hz, 2H), 2.83 (s, 3H), 1.95 (m, 2H), 1.42 (m, 4H), 0.92 (m, 3H). LCMS calculated for C18H21N6O(M+H): 337.2; found 337.2.

reactant | 7-bromo-3-methyl-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one | 0.30 mmol, 100 mg | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)C)CCCCC | C12H15BrN6O
reactant | phenylboronic acid | 0.32 mmol, 39.5 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.94 mmol, 100 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2 ml | O | H2O
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.10 mmol, 200 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-methyl-9-pentyl-7-phenyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 16 mg, 16% | CC1=NN=C2N1C(C=1NC(=NC1N2CCCCC)C2=CC=CC=C2)=O | C18H20N6O
